US05104876
A. 3-(3-phenylpropyl)pyridine
Heat a mixture of 2-phenylethyl 3-pyridinyl ketone (19.5 g, 0.092M), NaOH (8.0 g), hydrazine hydrate (8 ml, 85% in H2O) and diethylene glycol (125 ml) to 240° C. for 4 hours.

reactant | 2-phenylethyl 3-pyridinyl ketone | 0.092M, 19.5 g | N1=CC(=CC=C1)C(=O)CCC1=CC=CC=C1 | C14H13NO
reactant | NaOH | 8.0 g | [OH-].[Na+]
reactant | hydrazine hydrate | 8 ml | O.NN
solvent | diethylene glycol | 125 ml | C(COCCO)O | C4H10O3
product | 3-(3-phenylpropyl)pyridine | C1(=CC=CC=C1)CCCC=1C=NC=CC1 | C14H15N
